US05298660
9.96 g (0.082 mole) of (R)-(+)-1-phenylethylamine and 10.54 g (0.086 mole) of p-hydroxybenzaldehyde were dissolved in 140 ml of ethyl alcohol, and the resulting solution was stirred under reflux for 2 hours. The reaction mixture was cooled to room temperature, and the crystalline material thus formed was separated by filtration to give 13.0 g of (-)-N-(p-hydroxybenzylidene)-1-phenylethylamine. Yield: 70.4%.

reactant | (R)-(+)-1-phenylethylamine | 0.082 mole, 9.96 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | p-hydroxybenzaldehyde | 0.086 mole, 10.54 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | ethyl alcohol | 140 ml | C(C)O | C2H6O
product | (-)-N-(p-hydroxybenzylidene)-1-phenylethylamine | 13.0 g, Yield: 70.4% | OC1=CC=C(C=NC(C)C2=CC=CC=C2)C=C1 | C15H15NO
